US05942517
To a well stirred solution of 5-(benzyloxy carbonyl)-1,6-dihydro-2-methoxy-4-ethyl-6-(3,4-difluorophenyl)pyrimidine (17.0 g, 44.04 mmol) and 4-dimethylaminopyridine (6.99 g, 57.25 mmol) in CH2Cl2 (200 mL) was added a powder of 4-nitrophenyl chloroformate 11.54 g, 57.25 mmol) at room temperature. The reaction mixture was stirred for 12 hours and then the solvent was removed in vacuo. The residue was purified by chromatography (SiO2, EtOAc/Hexane 10-30%) to get 5-(benzyloxycarbonyl)-4-ethyl-1,6-dihydro-2-methoxy-6-(3,4-difluorophenyl)-1-[(4-nitrophenyloxy)carbonyl]pyrimidine as a colorless viscous oil(12.6 g, 50%). 1H NMR (CDCl3): δ 1.24 (t, J=7.2 Hz, 3H), 2.81-2.98 (m, 3H), 3.97 (s, 3H), 5.14 (ABq, δA =5.08, δB =5.20, J=12.3 Hz, 2H), 6.28 (s, 3H), 7.03-7.29 (m, 8H), 7.35 (d, J=9.2 Hz, 2H), 8.26 (d, J=9.2 Hz, 2H).

reactant | 5-(benzyloxy carbonyl)-1,6-dihydro-2-methoxy-4-ethyl-6-(3,4-difluorophenyl)pyrimidine | 44.04 mmol, 17.0 g | C(C1=CC=CC=C1)OC(=O)C1=C(N=C(NC1C1=CC(=C(C=C1)F)F)OC)CC | C21H20F2N2O3
reactant | 4-nitrophenyl chloroformate | 57.25 mmol, 11.54 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
catalyst | 4-dimethylaminopyridine | 57.25 mmol, 6.99 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-(benzyloxycarbonyl)-4-ethyl-1,6-dihydro-2-methoxy-6-(3,4-difluorophenyl)-1-[(4-nitrophenyloxy)carbonyl]pyrimidine | 12.6 g, 50% | C(C1=CC=CC=C1)OC(=O)C1=C(N=C(N(C1C1=CC(=C(C=C1)F)F)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)CC | C28H23F2N3O7
